US04077982
2-Chloromethyl-5-(2-methylbenzyloxy)-5-methyl-1,3-dioxane
By the method of Example 39, 2-(2-methylbenzyloxy)-2-methyl-1,3-propanediol was reacted with chloroacetaldehyde diethyl acetal to yield a mixture which was separated by column chromatography. The t-isomer was a liquid b.p. 117° C/0.005 mm Hg; nD25 1.5175. The c-isomer was a solid, m.p. 57°-58° C.

reactant | 2-(2-methylbenzyloxy)-2-methyl-1,3-propanediol | CC1=C(COC(CO)(CO)C)C=CC=C1 | C12H18O3
reactant | chloroacetaldehyde diethyl acetal | C(C)OC(CCl)OCC | C6H13ClO2
product | 2-Chloromethyl-5-(2-methylbenzyloxy)-5-methyl-1,3-dioxane | ClCC1OCC(CO1)(C)OCC1=C(C=CC=C1)C | C14H19ClO3
